US09388189B2
N′-[3-Hydroxy-4-(4-{[(1S)-1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl]amino}-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl]-N,N-dimethylsulfamide
N′-[3-Methoxy-4-(4-{[(1S)-1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl]amino}-7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl]-N,N-dimethylsulfamide (73 mg, 0.06 mmol, 57% purity) was treated with boron tribromide (1M in dichloromethane, 2.0 ml, 2.0 mmol) with dichloromethane (1.0 ml) as a solvent according to the method described in Example 23. and then with a solution of ammonia (7N in methanol, 5.0 ml, 35.0 mmol) according to the method described in Example 27. The residue was purified using SP1® Purification System (reverse phase, 0% to 100% water-acetonitrile/methanol 1:1) to obtain 1 mg (2% yield) of the title compound.

reactant | N′-[3-Methoxy-4-(4-{[(1S)-1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl]amino}-7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl]-N,N-dimethylsulfamide | 0.06 mmol, 73 mg | COC=1C=C(C=CC1C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C)NS(=O)(=O)N(C)C | C36H45N9O5SSi
reactant | boron tribromide | 2.0 mmol, 1M, 2.0 ml | B(Br)(Br)Br | BBr3
reactant | ammonia | 35.0 mmol, 7N, 5.0 ml | N | H3N
solvent | dichloromethane | 1.0 ml | ClCCl | CH2Cl2
product | N′-[3-Hydroxy-4-(4-{[(1S)-1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl]amino}-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl]-N,N-dimethylsulfamide | 1 mg, 2% yield | OC=1C=C(C=CC1C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)NS(=O)(=O)N(C)C | C29H29N9O4S
